### PR TITLE
send_signal_corres

### PR DESCRIPTION
**Pull request by MitchellBuckley**
This solves `send_signal_corres` but adds two sorries for `refillUnblockCheck_corres` and `refillUnblockCheck_valid_objs'`.

Lots of lemmas could be moved to better locations, but I need some help deciding where things could go. I have an idea that we could move lots of proofs to SchedContext_R.thy.

### CODE REVIEW

**Review by michaelmcinerney — APPROVED** [review]
Lovely jubbly

File: proof/refine/ARM/Ipc_R.thy [hunk 1]
```diff
@@ -2522,17 +2522,603 @@ global_interpretation setMessageInfo: typ_at_all_props' "setMessageInfo t info"
...
+  unfolding update_sched_context_def
+  by (wpsimp wp: set_object_neg_ko get_object_wp simp: pred_neg_def)
+
+crunches update_sched_context
+  for valid_cap[wp]: "valid_cap c"
+  and valid_tcb_state[wp]: "valid_tcb_state st"
+  (wp: crunch_wps ignore: set_object)
+
+lemma update_sched_context_valid_bound_sc[wp]:
+  "update_sched_context param_a param_b \<lbrace>valid_bound_sc f\<rbrace>"
```
[the remark this answers is not in the document]
Comment (MitchellBuckley) [reply proof/refine/ARM/Ipc_R.thy:2744]: I forgot the names!! On it.

File: proof/refine/ARM/Ipc_R.thy [hunk 2]
```diff
@@ -2522,17 +2522,603 @@ global_interpretation setMessageInfo: typ_at_all_props' "setMessageInfo t info"
...
+
+crunches SchedContext_A.postpone, sched_context_resume, refill_unblock_check
+  for valid_tcbs[wp]: valid_tcbs
+  (wp: crunch_wps)
+
+crunches test_reschedule
+  for valid_tcbs[wp]: valid_tcbs
+  (wp: crunch_wps)
+
+lemma sched_context_donate_valid_tcbs[wp]:
```
[the remark this answers is not in the document]
Comment (MitchellBuckley) [reply proof/refine/ARM/Ipc_R.thy:2779]: I partially cut them out. But perhaps I should cut them out altogether. I'll try it and see how I go.

[the remark this answers is not in the document]
Comment (MitchellBuckley) [reply proof/refine/ARM/Ipc_R.thy:2779]: I partially cut them out. But perhaps I should cut them out altogether. I'll try it and see how I go.

File: proof/refine/ARM/Ipc_R.thy [hunk 3]
```diff
@@ -2522,17 +2522,603 @@ global_interpretation setMessageInfo: typ_at_all_props' "setMessageInfo t info"
...
+      apply (rule_tac Q="\<lambda>_. valid_tcbs and sc_at sc_ptr" in hoare_strengthen_post[rotated])
+       apply clarsimp
+       apply (subgoal_tac "valid_tcb from_tptr y s")
+        apply (clarsimp simp: valid_tcb_def tcb_cap_cases_def)
+       apply (clarsimp simp: valid_tcbs_def)
+      apply wpsimp+
+  done
+
+lemma maybe_donate_sc_valid_tcbs[wp]:
+  "\<lbrace>valid_objs\<rbrace> maybe_donate_sc a nptr \<lbrace>\<lambda>_. valid_tcbs\<rbrace>"
```
[the remark this answers is not in the document]
Comment (MitchellBuckley) [reply proof/refine/ARM/Ipc_R.thy:2800]: Yes, that was intentional.

**Comment by MitchellBuckley** [comment]
Thanks to Michael for a very helpful review. Lots of small fixes now done.

I need some advice about moving lemmas. Can @mktnk3 or @corlewis have a look some time in the coming week?

File: proof/refine/ARM/Ipc_R.thy [hunk 4]
```diff
@@ -2522,18 +2522,499 @@ global_interpretation setMessageInfo: typ_at_all_props' "setMessageInfo t info"
...
+  "corres dc (tcb_at tcb_ptr and ntfn_at ntfn_ptr and invs and weak_valid_sched_action)
+             (tcb_at' tcb_ptr and ntfn_at' ntfn_ptr and (\<lambda>s. valid_objs' s \<and>
+                              valid_queues s \<and>
+                              valid_queues' s \<and>
+                              valid_release_queue s \<and>
+                              valid_release_queue' s))
+            (maybe_donate_sc tcb_ptr ntfn_ptr)
+            (maybeDonateSc tcb_ptr ntfn_ptr)"
+  unfolding maybeDonateSc_def maybe_donate_sc_def
+  apply (simp add: get_tcb_obj_ref_def get_ntfn_obj_ref_def2 liftM_def maybeM_def
```
Comment (mktnk3) [inline proof/refine/ARM/Ipc_R.thy:2695]: I haven’t loaded up in Isabelle, so I might be wrong, but it looks like simplifying with `get_ntfn_obj_ref_def2 liftM_def` is the same thing as simply unfolding `get_ntfn_obj_ref_def`? Or am I missing something? Why do we need `get_ntfn_obj_ref_def2` and `get_sc_obj_ref_def2`?

File: proof/refine/ARM/Ipc_R.thy [hunk 5]
```diff
@@ -2522,18 +2522,499 @@ global_interpretation setMessageInfo: typ_at_all_props' "setMessageInfo t info"
...
+  done
+
+crunches refillUnblockCheck
+  for valid_release_queue[wp]: valid_release_queue
+  and valid_release_queue'[wp]: valid_release_queue'
+  and valid_queues[wp]: valid_queues
+  and valid_queues'[wp]: valid_queues'
+  (wp: whileM_inv crunch_wps)
+
+lemma threadSet_valid_release_queue_inv:
```
Comment (mktnk3) [inline proof/refine/ARM/Ipc_R.thy:2733]: This one doesn’t seem to be used. Maybe we don’t need this one, if we have the one below? (And rename the one below?)

File: proof/refine/ARM/Ipc_R.thy [hunk 6]
```diff
@@ -2522,18 +2522,499 @@ global_interpretation setMessageInfo: typ_at_all_props' "setMessageInfo t info"
...
+      apply clarsimp
+      apply (drule_tac x=x in spec, clarsimp)
+      apply (subst (asm) fst_image_set_zip[symmetric], assumption)
+      apply (fastforce simp: image_def)
+     apply (wpsimp wp: mapM_wp_inv)
+    apply wpsimp+
+  apply (clarsimp simp: valid_release_queue'_def)
+  done
+
+lemma tcbReleaseEnqueue_valid_queues[wp]:7
```
Comment (mktnk3) [inline proof/refine/ARM/Ipc_R.thy:2838]: The Refine test is failing because of this line (`7`.... :D )

File: proof/refine/ARM/Ipc_R.thy [hunk 7]
```diff
@@ -2522,18 +2522,499 @@ global_interpretation setMessageInfo: typ_at_all_props' "setMessageInfo t info"
...
+  and ntfn_at[wp]: "ntfn_at t"
+  (wp: select_wp crunch_wps simp: crunch_simps ignore: set_object)
 
 lemma valid_sched_weak_strg:
   "valid_sched s \<longrightarrow> weak_valid_sched_action s"
   by (simp add: valid_sched_def valid_sched_action_def)
 
-lemma send_signal_corres:
+(* FIXME RT: Already proved by Ryan. *)
+lemma schedContextResume_corres:
```
Comment (mktnk3) [inline proof/refine/ARM/Ipc_R.thy:2535]: Can you update this to the actual statement that Ryan proved?

**Review by mktnk3 — COMMENTED** [review]
Haven’t quite finished reviewing, but sending some comments for now...

File: proof/refine/ARM/Ipc_R.thy [hunk 8]
```diff
@@ -2522,18 +2522,499 @@ global_interpretation setMessageInfo: typ_at_all_props' "setMessageInfo t info"
...
+  "\<lbrace>valid_queues and valid_objs'\<rbrace>
+   postpone scPtr
+   \<lbrace>\<lambda>_. valid_queues\<rbrace>"
+  unfolding postpone_def
+  apply (wpsimp wp: getNotification_wp threadGet_wp tcbSchedDequeue_valid_queues)
+  apply (subst obj_at'_conj[symmetric])
+  apply (erule (1) valid_objs_valid_tcbE')
+  by (clarsimp simp: valid_tcb'_def)
+
+lemma postpone_vq'[wp]:
```
Comment (corlewis) [inline proof/refine/ARM/Ipc_R.thy:2884]: nitpick: my guess is that quite a few of the lemmas around here are crunchable

File: proof/refine/ARM/Ipc_R.thy [hunk 9]
```diff
@@ -2565,108 +3045,126 @@ lemma send_signal_corres:
...
-  "valid_tcb_state' Inactive = \<top>"
-  "valid_tcb_state' Restart = \<top>"
-  "valid_tcb_state' IdleThreadState = \<top>"
-  by (rule ext, simp add: valid_tcb_state'_def)+
+    apply (clarsimp simp: ntfn_relation_def combine_ntfn_badges_def)+
+  done
 
 lemma possibleSwitchTo_ksQ':
-  "\<lbrace>(\<lambda>s. t' \<notin> set (ksReadyQueues s p) \<and> sch_act_not t' s) and K(t' \<noteq> t)\<rbrace>
+  "\<lbrace>(\<lambda>s. t' \<notin> set (ksReadyQueues s p) \<and> sch_act_not t' s) and K (t' \<noteq> t)\<rbrace>
```
Comment (corlewis) [inline proof/refine/ARM/Ipc_R.thy:3167]: nitpick: since you're already touching this line
```suggestion
  "\<lbrace>\<lambda>s. t' \<notin> set (ksReadyQueues s p) \<and> sch_act_not t' s \<and> t' \<noteq> t\<rbrace>
```

**Review by corlewis — APPROVED** [review]
Great job with all of this!

I agree with your comment that a lot of proofs can be moved to SchedContext_R, but that could be a whole separate PR if you want to get this one merged. There's quite a few things that could do with being moved, not just the lemmas you've added. I have a commit as part of my current `finaliseCap` work that moves a bunch of `schedContextUpdateConsumed` and `schedContextCompleteYieldTo` out of Ipc_R and TCB_R, and I know @VictorPhan has done similar with some `schedContextDonate` lemmas.

File: proof/refine/Move_R.thy [hunk 10]
```diff
@@ -349,4 +349,35 @@ lemma valid_tcb_state_BlockedOnReply[simp]:
...
+  "length xs = length ys \<Longrightarrow> fst ` set (zip xs ys) = set xs"
+  by (auto simp: set_zip in_set_conv_nth image_def)
+
+lemma get_ntfn_obj_ref_def2:
+  "get_ntfn_obj_ref f ep = liftM f (get_notification ep)"
+  by (clarsimp simp: get_sk_obj_ref_def liftM_def)
+
+lemma get_sc_obj_ref_def2:
+  "get_sc_obj_ref f ep = liftM f (get_sched_context ep)"
+  by (clarsimp simp: get_sc_obj_ref_def thread_get_def liftM_def)
```
[the remark this answers is not in the document]
Comment (MitchellBuckley) [reply proof/refine/Move_R.thy:381]: Nope, good catch, will change.

File: proof/refine/ARM/Ipc_R.thy (hunk 4 above)
Comment (MitchellBuckley) [reply proof/refine/ARM/Ipc_R.thy:2695]: You're right. Both of these can go.

File: proof/refine/ARM/Ipc_R.thy (hunk 5 above)
Comment (MitchellBuckley) [reply proof/refine/ARM/Ipc_R.thy:2733]: I think it's a great idea to rename them both. I think the first one will be needed by someone at some point, it says something useful and if it's ok with you I'd like to leave it in.

File: proof/refine/ARM/Ipc_R.thy [hunk 11]
```diff
@@ -2522,18 +2522,499 @@ global_interpretation setMessageInfo: typ_at_all_props' "setMessageInfo t info"
...
+lemma refillUnblockCheck_corres:
+ "corres dc \<top> \<top> (refill_unblock_check a) (refillUnblockCheck b)"
+  unfolding refillUnblockCheck_def refill_unblock_check_def
+  sorry (* refillUnblockCheck_corres *)
+
+lemma refillUnblockCheck_valid_objs'[wp]:
+  "refillUnblockCheck x2 \<lbrace>valid_objs'\<rbrace>"
+  sorry (* refillUnblockCheck_valid_objs' *)
+
+lemma thread_set_ko_not_tcb_at[wp]:
```
[the remark this answers is not in the document]
Comment (MitchellBuckley) [reply proof/refine/ARM/Ipc_R.thy:2550]: I'll move to `Move_R` :)

File: proof/refine/Move_R.thy [hunk 12]
```diff
@@ -349,4 +349,35 @@ lemma valid_tcb_state_BlockedOnReply[simp]:
   "valid_tcb_state (Structures_A.thread_state.BlockedOnReply reply_ptr) = reply_at reply_ptr"
   by (rule ext, simp add: valid_tcb_state_def)
 
+lemma receive_blocked_def2:
+  "receive_blocked st = (\<exists>a b c. st = Structures_A.thread_state.BlockedOnReceive a b c)"
```
[the remark this answers is not in the document]
Comment (MitchellBuckley) [reply proof/refine/Move_R.thy:353]: It was used somewhere, I'll do some tidying up.

File: proof/refine/ARM/KHeap_R.thy [hunk 13]
```diff
@@ -3795,5 +3795,23 @@ lemma cross_relF:
...
+  "valid_tcb_state' Inactive = \<top>"
+  "valid_tcb_state' Restart = \<top>"
+  "valid_tcb_state' IdleThreadState = \<top>"
+  by (rule ext, simp add: valid_tcb_state'_def)+
+
+lemma tcb_at'_ex1_ko_at':
+  "tcb_at' t s \<Longrightarrow> \<exists>!tcb. ko_at' (tcb::tcb) t s"
+  by (clarsimp simp: obj_at'_def)
+
+(* FIXME RT: move to Lib? *)
```
[the remark this answers is not in the document]
Comment (MitchellBuckley) [reply proof/refine/ARM/KHeap_R.thy:3809]: I think the pure logic lemma could go to lib because I think it's probably a fundamental logical identity. I managed to prove the following stronger lemma actually: `Ex1 Q = (∀P. (∃x. Q x ∧ P x) = (∀x. Q x ⟶ P x))`. So saying "there exists a unique x such that Q x" is equivalent to saying that Q interacts with all other propositions in the above manner. And that interaction is "P implies Q if and only if P and Q is true somewhere."

We don't have ot move it to lib, but it would good to move it somewhere fairly high up.

[the remark this answers is not in the document]
Comment (MitchellBuckley) [reply proof/refine/ARM/KHeap_R.thy:3809]: But `KHeap_R` is fairly high up, so happy to leave it here.

[the remark this answers is not in the document]
Comment (MitchellBuckley) [reply proof/refine/ARM/KHeap_R.thy]: I've been thinking about this more. The reason that this rewrite is so useful is that the left hand side has standard intro rules which `clarsimp` will apply in the goal, but not the hypotheses. And the right hand side has standard elimination rules which `clarsimp` will apply in the hypotheses, but not the goal. So adding this to the simp set (or its symmetric version) will effectively apply standard elimination/introduction rules without the need for manual intervention.

File: proof/refine/ARM/KHeap_R.thy [hunk 14]
```diff
@@ -3885,5 +3884,30 @@ lemma cross_relF:
...
+  "valid_tcb_state' Inactive = \<top>"
+  "valid_tcb_state' Restart = \<top>"
+  "valid_tcb_state' IdleThreadState = \<top>"
+  by (rule ext, simp add: valid_tcb_state'_def)+
+
+lemma tcb_at'_ex1_ko_at':
+  "tcb_at' t s \<Longrightarrow> \<exists>!tcb. ko_at' (tcb::tcb) t s"
+  by (clarsimp simp: obj_at'_def)
+
+(* FIXME RT: this is neat but not used. Either move or delete *)
```
Comment (MitchellBuckley) [inline proof/refine/ARM/KHeap_R.thy:3898]: Remove this

File: proof/refine/ARM/Ipc_R.thy [hunk 15]
```diff
@@ -2522,36 +2522,1023 @@ global_interpretation setMessageInfo: typ_at_all_props' "setMessageInfo t info"
...
+  and ntfn_at[wp]: "ntfn_at t"
+  (wp: select_wp crunch_wps simp: crunch_simps ignore: set_object)
 
 lemma valid_sched_weak_strg:
   "valid_sched s \<longrightarrow> weak_valid_sched_action s"
   by (simp add: valid_sched_def valid_sched_action_def)
 
-lemma send_signal_corres:
-  "corres dc (einvs and ntfn_at ep) (invs' and ntfn_at' ep)
+
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Ipc_R.thy:2534]: extra newline

File: proof/refine/ARM/Ipc_R.thy [hunk 16]
```diff
@@ -2522,36 +2522,1023 @@ global_interpretation setMessageInfo: typ_at_all_props' "setMessageInfo t info"
...
+lemma runnable_tsr:
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Ipc_R.thy:2535]: This large section moved from Tcb_R

File: proof/refine/ARM/Ipc_R.thy [hunk 17]
```diff
@@ -2522,36 +2522,1023 @@ global_interpretation setMessageInfo: typ_at_all_props' "setMessageInfo t info"
...
+    apply (fastforce simp: sc_at_ppred_def obj_at_def is_sc_obj_def valid_obj_def
+                     dest: invs_valid_objs intro!: sc_at_cross)
+   apply clarsimp
+  apply (clarsimp simp: state_relation_def obj_at_def sc_at_ppred_def)
+  apply (drule (1) pspace_relation_absD)
+  apply (clarsimp split: if_splits)
+  apply (clarsimp simp: sc_relation_def split: kernel_object.splits)
+  apply (simp only: sc_relation_def eq_commute[where a="Some P" for P])
+  apply (clarsimp simp: obj_at'_def projectKO_eq projectKO_sc)
+  done
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Ipc_R.thy:2904]: END -- moved from elsewhere

File: proof/refine/ARM/Ipc_R.thy [hunk 18]
```diff
@@ -2522,36 +2522,1023 @@ global_interpretation setMessageInfo: typ_at_all_props' "setMessageInfo t info"
...
+  "refillUnblockCheck scPtr \<lbrace>valid_objs'\<rbrace>"
+  unfolding refillUnblockCheck_def
+  apply wpsimp
+          apply (rule_tac P="valid_objs' and active_sc_at' scPtr" in whileM_post_inv, clarsimp)
+           apply (wpsimp wp: updateRefillHd_valid_objs' refillReady_wp isRoundRobin_wp scActive_wp)+
+  apply (drule ko_at'_inj, assumption, clarsimp)+
+  apply (clarsimp simp: active_sc_at'_def obj_at'_real_def ko_wp_at'_def)
+  done
+
+lemma schedContextDonate_corres_helper:
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Ipc_R.thy:2957]: BEGIN -- moved from elsewhere

File: proof/refine/ARM/Ipc_R.thy [hunk 19]
```diff
@@ -2522,36 +2522,1023 @@ global_interpretation setMessageInfo: typ_at_all_props' "setMessageInfo t info"
...
+    apply (fastforce elim: sc_at_cross tcb_at_cross simp: state_relation_def)
+   apply clarsimp
+   apply (frule valid_objs'_valid_tcbs')
+   apply (rule valid_objsE', assumption)
+    apply (fastforce simp: obj_at'_def projectKO_eq projectKO_sc)
+   apply (clarsimp simp: valid_obj'_def valid_sched_context'_def obj_at'_def projectKOs)
+   apply (frule valid_objs'_valid_tcbs')
+   apply (fastforce simp: valid_obj'_def valid_tcb'_def)
+  apply (clarsimp simp: sym_refs_asrt_def)
+  done
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Ipc_R.thy:3048]: END -- moved from elsewhere

File: proof/refine/ARM/Ipc_R.thy [hunk 20]
```diff
@@ -2522,36 +2522,1023 @@ global_interpretation setMessageInfo: typ_at_all_props' "setMessageInfo t info"
...
+
+lemma get_sk_obj_ref_def2:
+  "get_sk_obj_ref R f ep = liftM f (get_simple_ko R ep)"
+  by (clarsimp simp: get_sk_obj_ref_def liftM_def)
+
+
+lemma getCTE_cap_to_refs[wp]:
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Ipc_R.thy:3055]: BEGIN -- moved from elsewhere

File: proof/refine/ARM/Ipc_R.thy [hunk 21]
```diff
@@ -2522,36 +2522,1023 @@ global_interpretation setMessageInfo: typ_at_all_props' "setMessageInfo t info"
...
+   apply (clarsimp simp: obj_at'_def sym_refs_asrt_def)
+  apply (wp schedContextDonate_valid_pspace' schedContextDonate_vrq
+                    schedContextDonate_valid_queues schedContextDonate_valid_queues'
+                    schedContextDonate_valid_idle' schedContextDonate_if_live_then_nonz_cap')
+  apply (clarsimp simp: obj_at'_def projectKO_eq projectKO_sc)
+  apply (drule_tac ko=obj in sym_refs_ko_atD'[rotated, where p=scPtr])
+   apply (auto dest!: global'_sc_no_ex_cap
+               simp: ko_wp_at'_def obj_at'_def projectKO_eq projectKO_tcb
+                     pred_tcb_at'_def valid_idle'_def idle_tcb'_def refs_of_rev')
+  done
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Ipc_R.thy:3196]: END -- moved from elsewhere

**Review by mktnk3 — APPROVED** [review]
This looks good to me! Thanks for cleaning it up nicely, Mitch!
